US07618978B2
4-(4-methylpentanoyl)-2-(R)-(2-(R)-acetylamino-1-(S)-hydroxy-3-phenylpropyl)-piperazine-1-carboxylic acid tert-butyl ester
Dissolve 2-(R)-(2-(R)-Acetylamino-1-(S)-hydroxy-3-phenyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester (122 mg, 0.32 mmol) in 3 ml of dry CH2Cl2. Add 4-methylpentanoic acid (0.04 ml, 0.32 mmol), EDCI (73.6 mg, 0.38 mmol), HOBT (51.8 mg, 0.38 mmol), triethylamine (0.13 ml, 0.96 mmol) and dimethylaminopyridine (3.9 mg, 0.032 mmol), and stir at room temperature overnight. Dilute with CH2Cl2, and wash with 5% NaHCO3 followed by saturated aqueous sodium chloride. Dry organic layer with MgSO4 and remove the solvent under reduced pressure. Subject residue to silica gel chromatography, eluting with ethyl acetate/methanol 9:1 to obtain 74 mg (48% yield) of a white solid.

reactant | 2-(R)-(2-(R)-Acetylamino-1-(S)-hydroxy-3-phenyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 122 mg | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)NC(C)=O)O | C20H31N3O4
reactant | 4-methylpentanoic acid | 0.32 mmol, 0.04 ml | CC(CCC(=O)O)C | C6H12O2
reactant | EDCI | 0.38 mmol, 73.6 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.38 mmol, 51.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.96 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.032 mmol, 3.9 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-methylpentanoyl)-2-(R)-(2-(R)-acetylamino-1-(S)-hydroxy-3-phenylpropyl)-piperazine-1-carboxylic acid tert-butyl ester | 74 mg, 48% yield | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(CCC(C)C)=O)[C@H]([C@@H](CC1=CC=CC=C1)NC(C)=O)O | C26H41N3O5
